US04853389
Step (2) Preparation of 1,3-Dimethyl-2,4-dioxo-5-pyrimidinesulfonyl Chloride
1,3-Dimethyluracil (411 g, 2.93M) was added portionwise over 30 minutes to chlorosulfonic acid (5480 g, 47.0M) with stirring at room temperature. The exotherm was allowed to proceed to 50° C. without cooling. Upon completion of addition, the reaction was heated gradually to reflux (~154° C.) for 2 hours. Upon cooling the reaction was cautiously poured onto ice. The resultant solid was filtered off, washed thoroughly with water and dried in vacuo at 40° C. for 16 hours. An off-white solid (554 g, 79.2%), m.p. 225°-230° C. (dec.) was obtained.

reactant | 1,3-Dimethyluracil | 2.93M, 411 g | CN1C(=O)N(C(=O)C=C1)C | C6H8N2O2
reactant | chlorosulfonic acid | 47.0M, 5480 g | ClS(=O)(=O)O | ClHO3S
product | 1,3-Dimethyl-2,4-dioxo-5-pyrimidinesulfonyl Chloride | 554 g, 79.2% | CN1C(N(C(C(=C1)S(=O)(=O)Cl)=O)C)=O | C6H7ClN2O4S
